US09233979B2
To a 50 mL round bottom flask charged with benzyl methyl (1-trityl-1H-pyrazolo[4,3-c]pyridine-3,6-diyl)dicarbamate (126 mg, 0.216 mmol) in ethyl acetate (4 ml) and methanol (4 ml) was added palladium on carbon (45.9 mg, 0.043 mmol). The flask was evacuated and back-filled with hydrogen gas using an attached balloon. This procedure was attempted a further two times. The reaction mixture was stirred under a hydrogen atmosphere at room temperature for 16 h. The palladium was filtered off by passing the reaction mixture through celite and washing through with ethyl acetate (20 mL). The volatiles were removed in vacuo to afford crude methyl (6-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate (95 mg, 0.211 mmol, 98% yield) as a white solid. MS ESI calc'd. For C27H24N5O2 [M+H]+ 450. found 450.

reactant | benzyl methyl (1-trityl-1H-pyrazolo[4,3-c]pyridine-3,6-diyl)dicarbamate | 0.216 mmol, 126 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(C=2C=NC(=CC21)NC(OC)=O)NC(OCC2=CC=CC=C2)=O | C35H29N5O4
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 ml | CO | CH4O
catalyst | palladium on carbon | 0.043 mmol, 45.9 mg | [Pd] | Pd
product | methyl (6-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | 0.211 mmol, 95 mg, 98% yield | NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(OC)=O | C27H23N5O2
